Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
BRBPR, presyncope
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
As per admitting MD: 

___ male with A. fib on Coumadin, AAA, recent 
colonoscopy
with polypectomy, presenting from ___ with bright red
blood per rectum and presyncope.  He had a large bloody bowel
movement this morning, and in the setting of bearing down, felt
very lightheaded, without syncope, loss consciousness or head
strike.  He subsequently presented to ___.  His
hematocrit at ___ was 25 (baseline of 40), for which he
received vitamin K, 1 unit of FFP, 2 units of PRBCs.  

On review of his anticoagulation, available through ___, the
patient received 5 mg of Coumadin from ___ ___s
15,000 units of unfractionated heparin subq every 12 hours, with
a goal to bridge/raise his INR following his procedure.  He
reports that his normal dose of Coumadin is 3 mg daily.

In the ED, initial vital signs were 96.6 68 128/76 16 98% on 
room
air.
Labs significant for CBC with H/H of 9.3/28.7, platelets 1 and 
2.
BMP WNL.  Lipase 63.  Troponin negative ×1.  INR 1.8.
He was evaluated by GI, who recommended prep for colonoscopy
tomorrow as well as additional transfusion if needed.
He was given MoviPrep 1 L.

Upon arrival to the floor, the patient tells the story as
follows.  He is originally from ___ and ___ ___,
however he declines an interpreter for our interview.  He 
reports
that he had a colonoscopy on ___.  Initially, he did not
have a lot of bowel movements because he had not been eating,
however he thinks his first bowel movements were normal.  Then 
on
___, he awoke and "felt uncomfortable".  At that time he
had a large bowel movement, which was all blood.  He reports 
that
during that event he felt lightheaded, but denies syncope, fall,
or head strike.  During that event, he "felt my heart rate fast"
and also felt a "squeezing" in the chest, which she reports went
away gradually.  He otherwise denies headache or abdominal pain. 

He denies current chest pain.
He does however not want to sit up, because he feels he might 
get
dizzy.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Cataracts
- AAA
- PMR
- Atrial fibrillation
- Colon polyps S/P colonoscopy ___ with polypectomy
- Hypercholesterolemia
- Impaired glucose tolerance
- Renal mass
- History of renal infarct ___ 
 
Social History:
___
Family History:
+ colon Cancer in his sister
 
Physical ___ physical exam:

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes very dry
CV: Heart irregular, rate slow, no murmur
RESP: Lungs clear to auscultation anterioly
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge physical exam: 

Vitals: T 97.7, BP 123/70, HR 59, RR 18, O2 96 RA 
Gen - no distress, sitting up in bed, comfortably resting 
HEENT - nc/at, moist oral mucosa, no oropharyngeal lesions 
Eyes - anicteric, perrl
___ - irregularly irregular, s1/2, no murmurs
Pulm - cta b/l, no w/r/r
GI - soft, NT, ND, +BS
Ext - no edema or cyanosis 
Skin - warm, dry, no rashes or lesion 
Psych - calm and appropriate 
Neuro - aaox3, moves all extremities 
 
Pertinent Results:
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD Glucose-92 UreaN-8 Creat-0.8 Na-144 
K-3.4* Cl-106 HCO3-28 AnGap-10
___ 06:30AM BLOOD Calcium-8.4 Phos-2.5* Mg-1.8

Colonoscopy ___
-No red blood in the whole examined colon
-Polypectomy site in ascending colon, s/p 1 endoclip
-Polypectomy site in descending colon with large adherent clot,
likely source of bleeding. s/p 2 endoclips
-Polypectomy site in sigmoid colon, small adherent clot. s/p 1
endoclip 
 
Brief Hospital Course:
___ with AFib on coumadin, AAA, recent colonoscopy with 
polypectomy, presenting from BID-M with BRBPR and presyncope. 

#Acute blood loss anemia
#BRBPR
He presented with symptomatic anemia most likely in the setting 
of post-polypectomy bleeding after colonscopy. A colonoscopy was 
performed during hospitalization and showed area of large 
adherent clot suggestive of bleeding. He received a total of 4 
units of blood given his acute blood loss anemia, the last unit 
was given ___ for Hg of 7.3/21.8. On the day of discharge, 
hemoglobin is 9.0/26.8. His anticoagulation was held per GI 
recommendations for 48 hours and he will resume his Coumadin 
tonight, the evening of discharge. His ___ clinic 
was contacted and recommended Coumadin 2.5mg for the next 3 days 
(___), and an INR check was scheduled for him on ___ 
___ after which his ___ clinic will advise Coumadin 
dosing. He had been bridged with Heparin subq (lovenox not 
chosen ___ cost) after his outpatient colonoscopy given his Afib 
and history of renal infarct with high risk for thrombophilia; 
given his presentation with bleeding and significant anemia, 
bridging was deferred at this time. The patient was counseled on 
the risks of not bridging with a subtherapeutic INR including 
risk of stroke and thromboembolism, and accepted these risks. He 
will follow up with his outpatient gastroenterologist for biopsy 
results from his original outpatient colonoscopy. He is 
scheduled to see his PCP next week and should have a CBC checked 
at that visit. 

# Presyncope
Likely in relation to volume losses ___ bleeding. His EKG was 
not ischemic and his cardiac enzymes were negative. Orthostatics 
were negative and the patient was ambulatory without any issues. 


# Chest pressure with palpitations (resolved) 
Initially with "squeezing" in his chest, cardiac enzymes neg x 2 
and EKG w/o ischemic changes. Most likely related to Afib with 
tachycardia and palpitations. No further complaints. 

# Atrial fibrillation
He is not on any rate control agents at baseline. HR was 
initially tachycardic to the 120-130's when admitted, attributed 
to hypovolemia in the setting of bleeding. This improved and his 
HR remained between 60-70 at most times. At times on telemetry 
he was noted to be bradycardic to 39-40, but asymptomatic. The 
patient notes this is not new for him, and was advised to follow 
up with his PCP to discuss whether or not a monitor is 
indicated. As he is asymptomatic and his HR did not drop any 
lower than 39-40, no interventions were necessary.

For anticoagulation, as above, he will not be bridged upon 
discharge. His INR is 1.1 on the day of discharge and his 
outpatient ___ clinic was contacted, recommending 
Coumadin 2.5mg for the next 3 days, and an INR check the day 
after so that his Coumadin dose can be adjusted. His outpatient 
INR draw was scheduled for him. 

# Electrolytes
His electrolytes including phosphorous were low during 
hospitalization. This is attributed to NPO status and decreased 
PO intake, and lytes were repleted. His phosphorous is 2.5 and K 
is 3.4 on the day of discharge; both were repleted and he should 
have his electrolytes checked at his follow up visit next week 
with his PCP. His electrolyte abnormalities are expected to 
improve upon discharge home when he resumes his regular diet. 

# Cataracts:
Continue latanoprost drops. 

# Disposition: 
Discharge home today given stable blood counts and resolution of 
bleeding. Anticoagulation plan as above. Plan of care was 
discussed with the patient. 

Time spent: 50 minutes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin ___ mg PO DAILY16 
2. ___ ___ UNIT SC BID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Fish Oil (Omega 3) 1000 mg PO DAILY  
2.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Warfarin ___ mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleed
Acute blood loss anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with bleeding after polyps 
were removed during your colonoscopy. You had a colonoscopy in 
the hospital here at ___ which showed a small clot and some 
clips were placed. This was most likely the source of bleeding. 
You received a total of 4 units of blood while hospitalized and 
your blood counts have stabilized. You may resume your Coumadin 
tonight and you do not require the additional medication 
heparin. There is a risk of stroke in patients who are not 
adequately anticoagulated, and in your case you are prone to 
clotting based on your history, however, the risk of bleeding is 
high and therefore you will NOT be given both blood thinners. 

You will need to have your INR checked as well as your blood 
counts and electrolytes. You may have your INR checked at the 
___ office on ___ between 10am - 3pm. You should 
take Coumadin 2.5mg today, tomorrow and ___, and have your 
Coumadin dose adjusted on ___ based on your INR. 

You were also noted to have a slightly low heart rate but you 
have been asymptomatic. Please follow up with your PCP to 
discuss whether or not you should have a heart monitor or 
further evaluation. You will also need to follow up with your 
gastroenterologist regarding the biopsies taken at your 
outpatient colonoscopy.

Please return to the ED if you experience any further bleeding 
or severe abdominal pain. It has been a pleasure to care for you 
in the hospital. We wish you the best!

Sincerely, 
Your care team at ___
 
Followup Instructions:
___